US04593029
A solution of 100 ml of 6-chloro-1-hexanol, 85 ml of acetic anhydride and 67 ml of pyridine in 300 ml of dry ethyl ether was stirred at room temperature for 1 h. The reaction mixture was washed 3 times with 100 ml of water and twice with 100 ml of saturated brine, dried over Na2SO4, filtered and evaporated. Distillation afforded 133 g of 6-chlorohexanol acetate (99%), b.p. 132° C. (10 mm).

reactant | 6-chloro-1-hexanol | 100 ml | ClCCCCCCO | C6H13ClO
reactant | acetic anhydride | 85 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 67 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl ether | 300 ml | C(C)OCC | C4H10O
product | 6-chlorohexanol acetate | 133 g, 99% | C(C)(=O)OCCCCCCCl | C8H15ClO2
